US07595415B2
Synthesis of 1,1′-[(1E,3E)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene]
1,1′-[(1E,3E)-2,3-diformylamino-1,3-butadiene-1,4-diyl]bis[methoxybenzene] (3.4 mg, 0.0096 mmol) prepared in Reference Synthetic Example 6 was suspended in chloroform (100 μl) and pyridine (100 μl), and a dichloromethane solution of phosphorus oxychloride (2 μl, 0.021 mmol) was dropwise added under cooling with ice. After stirring for 30 minutes, the suspension was diluted with ethyl acetate and poured into a saturated sodium hydrogen carbonate aqueous solution. Extraction with ethyl acetate was carried out twice, and the obtained organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the desired compound 1,1′-[(1E,3E)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene] (2.2 mg, 72%) as liver brown solid.

reactant | 1,1′-[(1E,3E)-2,3-diformylamino-1,3-butadiene-1,4-diyl]bis[methoxybenzene] | 0.0096 mmol, 3.4 mg | C(=O)N/C(=C/C1=C(C=CC=C1)OC)/C(=C\C1=C(C=CC=C1)OC)/NC=O | C20H20N2O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | phosphorus oxychloride | 0.021 mmol, 2 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 100 μl | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 100 μl | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1′-[(1E,3E)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene] | 2.2 mg, 72% | [N+](#[C-])/C(=C/C1=C(C=CC=C1)OC)/C(=C\C1=C(C=CC=C1)OC)/[N+]#[C-] | C20H16N2O2
